US04228109
A mixture of 185 ml of 5.25% commercial grade sodium hypochlorite solution (Clorox®) and 100 ml of carbon tetrachloride was cooled to 0° C. To this mixture, with vigorous stirring, was added a solution of 12.6 g of 1-methylpropyl 2-(diethoxyphosphinyl)-acetate in 50 ml of carbon tetrachloride over a 1/2 hour period. During this addition the temperature was kept at 0°-5° and the pH at 9.0-9.5 by the simultaneous addition of 1 N hydrochloric acid. The reaction mixture was stirred an additional 15 minutes at 0°-5° C. The carbon tetrachloride layer was washed with water, dried over magnesium sulfate and stripped at 60° C./1 mm pressure to yield 16.0 g of 1-methylpropyl 2,2-dichloro-2-(diethoxyphosphinyl)acetate as a pale yellow oil ND27 =1.4524.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 1-methylpropyl 2-(diethoxyphosphinyl)-acetate | 12.6 g | C(C)OP(=O)(CC(=O)OC(CC)C)OCC | C10H21O5P
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-methylpropyl 2,2-dichloro-2-(diethoxyphosphinyl)acetate | 16.0 g | ClC(C(=O)OC(CC)C)(P(=O)(OCC)OCC)Cl | C10H19Cl2O5P
